US06380249B1
2,4-Dioxo-4-(3-phenylsulfanyl-phenyl)-butyric acid L1
In a manner similar to example AIV-2-1, 2,4-dioxo-4-(3-phenylsulfanyl-phenyl)-butyric acid ethyl ester was formed and the crude material was hydrolyzed in a manner similar to example AIV-3-1 using 1N NaOH to afford L-1 as a yellow solid. Rf=0.32 (6:6:94 MeOH/AcOH/CH2Cl2).

reactant | 2,4-dioxo-4-(3-phenylsulfanyl-phenyl)-butyric acid ethyl ester | C(C)OC(C(CC(C1=CC(=CC=C1)SC1=CC=CC=C1)=O)=O)=O | C18H16O4S
reactant | NaOH | 1N | [OH-].[Na+]
solvent | MeOH AcOH CH2Cl2 | CO.CC(=O)O.C(Cl)Cl
product | 2,4-Dioxo-4-(3-phenylsulfanyl-phenyl)-butyric acid | O=C(C(=O)O)CC(C1=CC(=CC=C1)SC1=CC=CC=C1)=O | C16H12O4S
